US07241785B2
A mixture of 3-benzyloxy-1-phenyl-1H-pyrazol-4-ylmethyl acetate (2.35 g), 5% palladium-carbon (4.00 g), tetrahydrofuran (25 ml) and methanol (25 ml) was stirred under a hydrogen atmosphere for 1 hr. Palladium-carbon was filtered off and the filtrate was concentrated to give methyl 3-hydroxy-1-phenyl-1H-pyrazol-4-ylacetate (1.58 g, yield 93%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 144–145° C.

reactant | 3-benzyloxy-1-phenyl-1H-pyrazol-4-ylmethyl acetate | 2.35 g | C(C)(=O)OCC=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC=CC=C1 | C19H18N2O3
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | methanol | 25 ml | CO | CH4O
catalyst | palladium-carbon | 4.00 g | [C].[Pd]
product | methyl 3-hydroxy-1-phenyl-1H-pyrazol-4-ylacetate | 1.58 g, yield 93% | OC1=NN(C=C1CC(=O)OC)C1=CC=CC=C1 | C12H12N2O3
